US08071592B2
(b) Racemic 4-hydroxy-1-(phenylmethyl)-3-piperidinecarboxylic Acid
To a solution of ethyl 4-hydroxy-1-(phenylmethyl)-3-piperidinecarboxylate (30 g, 114.4 mmol) in THF/water (800 ml/80 mL) was added 2N sodium hydroxide solution (126 mL). The reaction mixture was stirred at room temperature for 5 h and then the pH was adjusted to 7 with 5N hydrochloric acid solution.

reactant | ethyl 4-hydroxy-1-(phenylmethyl)-3-piperidinecarboxylate | 114.4 mmol, 30 g | OC1C(CN(CC1)CC1=CC=CC=C1)C(=O)OCC | C15H21NO3
reactant | sodium hydroxide | 2N, 126 mL | [OH-].[Na+]
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | THF water | 800 ml | C1CCOC1.O
product | Racemic 4-hydroxy-1-(phenylmethyl)-3-piperidinecarboxylic Acid | OC1C(CN(CC1)CC1=CC=CC=C1)C(=O)O | C13H17NO3
